US06653489B2
Into a device similar to that used in Example 7 were charged 1.05 g (5.0 mmol) of tetrahydropyranyl-4-methanesulfonate synthesized in Example 5 and having a purity of 86% and 1.28 g (15.0 mmol) of piperidine, and the mixture was reacted at 100° C. for 4 hours. After completion of the reaction, 1.0 ml of 8 mol/l aqueous sodium hydroxide solution and 2.0 ml of water were added to the resulting reaction mixture to make the mixture basic (pH=11), the resulting mixture was extracted twice with each 30 ml of chloroform and the extract was dried over anhydrous magnesium sulfate. After filtration, the extract was concentrated under reduced pressure to obtain 0.74 g (yield: 72%) of 4-piperidinotetrahydropyrane having a purity of 82% (areal percentage according to gas chromatography) as a yellowish liquid.

reactant | piperidine | 15.0 mmol, 1.28 g | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 8 mol/l, 1.0 ml | [OH-].[Na+]
solvent | water | 2.0 ml | O | H2O
product | 4-piperidinotetrahydropyrane | 0.74 g, yield: 72% | N1(CCCCC1)C1CCOCC1 | C10H19NO
